US06579883B1
A solution of 5.07 g (20.0 mmol) of 7-(2-furanyl)-1,2,3,3a,5,9b-hexahydro-cyclopenta[c]quinolin-4-one (WO 99/41240) in 350 ml of THF is mixed at room temperature with 6.55 g (30.0 mmol) of pyrocarbonic acid-di-tert-butyl ester and 3.67 g (30.0 mmol) of 4-(dimethylamino)pyridine. After 7 hours at room temperature, the reaction mixture is concentrated by evaporation, and the residue is purified by column chromatography on silica gel with hexane-ethyl acetate. In this case, 2.53 g of 5-tert-butoxycarbonyl-7-(2-furanyl)-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one is isolated:

reactant | 7-(2-furanyl)-1,2,3,3a,5,9b-hexahydro-cyclopenta[c]quinolin-4-one | 20.0 mmol, 5.07 g | O1C(=CC=C1)C=1C=CC=2C3C(C(NC2C1)=O)CCC3 | C16H15NO2
reactant | pyrocarbonic acid-di-tert-butyl ester | 30.0 mmol, 6.55 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 350 ml | C1CCOC1 | C4H8O
catalyst | 4-(dimethylamino)pyridine | 30.0 mmol, 3.67 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-tert-butoxycarbonyl-7-(2-furanyl)-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 2.53 g | C(C)(C)(C)OC(=O)N1C(C2C(C=3C=CC(=CC13)C=1OC=CC1)CCC2)=O | C21H23NO4
